### ISSUE TITLE
Suggest `rwa` for `rw` followed by `assumption`

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#55]
Detect patterns where `rw [...]` is immediately followed by `assumption` and the same proof can be written as `rwa`.

e.g detect:

```lean
example (a b c : ℕ) (h₁ : a = b) (h₂ : b = c) : a = c := by
  rw [h₁]
  assumption
```

suggest:

```lean
example (a b c : ℕ) (h₁ : a = b) (h₂ : b = c) : a = c := by
  rwa [h₁]
```

Originally suggested by @grunweg.
